US08003796B2
Step A. Preparation of (E)-1-(benzyloxy)-4-(3,3,3-trifluoroprop-1-enyl)benzene
A mixture of 4-(benzyloxy)phenylboronic acid (1026 mg, 4.50 mmol, Alfa Aesar), (E)-1-bromo-3,3,3-trifluoroprop-1-ene (262 mg, 1.5 mmol, SynQuest), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (122 mg, 0.15, Combiphos Catalysts, Inc.) and cesium carbonate (2444 mg, 7.50 mmol, Aldrich) in Water (0.5 mL) and DMF (3.0 mL) was heated under microwave conditions (90° C., 20 min). The reaction mixture was diluted with EtOAc and filtered. The filtrate was washed with water and brine, dried (Na2SO4) and concentrated in vacuo. The residual was purified by flash chromatography on silica gel (0 to 100% EtOAc/hexanes) to yield the title compound (310 mg, 74%) as a pale yellow solid.

reactant | 4-(benzyloxy)phenylboronic acid | 4.50 mmol, 1026 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | (E)-1-bromo-3,3,3-trifluoroprop-1-ene | 1.5 mmol, 262 mg | Br\C=C\C(F)(F)F | C3H2BrF3
reactant | cesium carbonate | 7.50 mmol, 2444 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | Water | 0.5 mL | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-1-(benzyloxy)-4-(3,3,3-trifluoroprop-1-enyl)benzene | 310 mg, 74% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C\C(F)(F)F | C16H13F3O
